US04008273
Preparation of 2-t-Butylazo-2-phenyl-4-methylpentane
To a clean, dry 250 ml. round bottom 4 neck flask equipped with a magnetic stirrer, thermometer, condenser and addition funnel, which was being purged with nitrogen was added an ether solution containing .06 moles of phenyllithium. The solution was cooled to 5° C. and a solution of 10.25 g. (.05 moles) of 2-t-butylazo-2-chloro-4-methylpentane in 50 ml. ether was added dropwise over 1/2 hour. After the addition was complete, the reaction was warmed to 20° C. and stirred for 1/2 hour. The excess phenyllithium was destroyed with wet ether and the reaction mixture poured into 200 ml. water. The ether layer was separated, dried over anhydrous sodium sulfate, filtered and the ether removed on a rotating evaporator leaving 11.9 g. (96%) of a liquid. The infrared spectrum was in agreement with the structure of the title compound.

reactant | phenyllithium | .06 moles | C1(=CC=CC=C1)[Li]
reactant | 2-t-butylazo-2-chloro-4-methylpentane | .05 moles | C(C)(C)(C)N=NC(C)(CC(C)C)Cl | C10H21ClN2
solvent | ether | CCOCC | C4H10O
product | 2-t-Butylazo-2-phenyl-4-methylpentane | C(C)(C)(C)N=NC(C)(CC(C)C)C1=CC=CC=C1 | C16H26N2
